### ISSUE TITLE
Proof obligation for `I` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#21]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L90)

**Code Snippet:**
```lean
theorem IsCoupling.none_iff {α β : Type u} {c : SPMF (α × β)} :
    IsCoupling c (failure : SPMF α) (failure : SPMF β) ↔ c = failure := by
  simp [failure]
  constructor
  · intro h; sorry
```
